US08735426B2
Step 1: Synthesis of ethyl 2-chloro-2-cyclohexylacetate
100 mL of 1M BH3-THF complex (100 mmol) were added to 170 mL of dry THF under a blanket of nitrogen at room temperature. 12.3 mL of cis-1,5-cyclooctadiene (100 mmol) were added dropwise to this mixture within a period of 5 minutes, and the temperature rose to 45° C. The reaction mixture was heated under reflux over a period of 1.5 h, again cooled to 45° C., and 10.1 mL of cyclohexene (100 mmol) were added and stirring was continued for a further 2 h at 45° C. After the reaction mixture had been cooled in an ice bath, 12.2 mL of ethyldichloroacetate (100 mmol) in 50 mL of tert-butanol were added, stirring was continued for a further 15 minutes and 1M potassium tert-butylate (100 mmol, 100 mL) was added dropwise within a further 15 minutes. The reaction mixture was then stirred over a period of 15 minutes, 33 mL of 3M sodium acetate solution (100 mmol) were added and 22.5 mL of 30% strength aq. H2O2 solution (750 mmol) were added dropwise. The mixture was stirred at room temperature over a period of 30 minutes, then salted out with NaCl, the organic phase dried over MgSO4 and the solvent removed under reduced pressure. Following washing of the residual solid matter with tert-butylmethyl ether, cyclohexane/tert-butylmethyl ether (9:1), tert-butylmethyl ether, and EA, there were obtained 7.6 g (37.4%) of product.

reactant | cis-1,5-cyclooctadiene | 100 mmol, 12.3 mL | C/1=C/CCC=CCC1 | C8H12
reactant | cyclohexene | 100 mmol, 10.1 mL | C1=CCCCC1 | C6H10
reactant | ethyldichloroacetate | 100 mmol, 12.2 mL | C(C)OC(C(Cl)Cl)=O | C4H6Cl2O2
reactant | potassium tert-butylate | 100 mmol, 1M, 100 mL | CC(C)(C)[O-].[K+]
reactant | sodium acetate | 100 mmol, 3M, 33 mL | C(C)(=O)[O-].[Na+]
reactant | H2O2 | 750 mmol | OO | H2O2
reactant | NaCl | [Na+].[Cl-]
solvent | tert-butanol | 50 mL | C(C)(C)(C)O | C4H10O
solvent | THF | 170 mL | C1CCOC1 | C4H8O
product | ethyl 2-chloro-2-cyclohexylacetate | 7.6 g, 37.4% | ClC(C(=O)OCC)C1CCCCC1 | C10H17ClO2
